US09278981B2
Stage 185.2 5-Bromo-6-chloro-N-(4-((trifluoromethyl)thio)phenyl)nicotinamide
DMF (0.12 mL) was added followed by slow addition of SOCl2 (0.73 mL, 10 mmol) to a mixture of 5-bromo-6-chloro-nicotinic acid (473 mg, 2 mmol) in toluene (5 mL), and the RM was then stirred at 80° C. for 1 h. After cooling at RT, the toluene was evaporated off under reduce pressure and the residue was dissolved in THF (0.4 mL). DIPEA (0.7 mL, 4 mmol) was added and the solution was cooled to 0° C. under nitrogen. 4-trifluoromethylsulfanyl-aniline (438 mg, 2.2 mmol) in THF (1 mL) was then added dropwise and the RM was stirred at 0° C. for 2 h. The RM was diluted with TBME (50 mL), treated with 1 M HCl and extracted with TBME. The combined extracts were washed with 1 M aq. NaOH and brine, dried over Na2SO4 and the solvent was evaporated off under reduced pressure and the product was crystallized from TBME/n-hexane to give the title compound as an off-white crystalline powder. HPLC (Condition 4) tR=6.63 min, UPLC-MS (Condition 3) tR=1.33 min, m/z=411.1 [M+H]+.

reactant | SOCl2 | 10 mmol, 0.73 mL | O=S(Cl)Cl | Cl2OS
reactant | 5-bromo-6-chloro-nicotinic acid | 2 mmol, 473 mg | BrC=1C(=NC=C(C(=O)O)C1)Cl | C6H3BrClNO2
reactant | DIPEA | 4 mmol, 0.7 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-trifluoromethylsulfanyl-aniline | 2.2 mmol, 438 mg | FC(F)(F)SC1=CC=C(N)C=C1 | C7H6F3NS
reactant | HCl | 1 M | Cl | ClH
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | TBME | 50 mL | CC(C)(C)OC | C5H12O
solvent | DMF | 0.12 mL | CN(C)C=O | C3H7NO
product | 5-Bromo-6-chloro-N-(4-((trifluoromethyl)thio)phenyl)nicotinamide | BrC=1C(=NC=C(C(=O)NC2=CC=C(C=C2)SC(F)(F)F)C1)Cl | C13H7BrClF3N2OS
